US07662771B2
Heat a mixture of octanedioic acid methyl ester 2-oxo-2-phenylethyl ester (6.93 g, 22.6 mmol), acetamide (6.75 g, 114 mmol) and boron trifluoride diethyl etherate (3.0 mL, 23.7 mmol) at 135-140° C. under nitrogen for 4 hours. Cool the mixture, dilute with saturated NaHCO3 solution (100 mL), and extract with ethyl acetate (250 mL). Wash the organic extract with 100 mL of saturated aqueous sodium chloride (brine) and dry over sodium sulfate. Remove the solvent under reduced pressure and purify the residue by flash column chromatography on silica gel, eluting with hexanes/ethyl acetate (85:15), to provide 7-(4-phenyloxazol-2-yl)heptanoic acid methyl ester (5.7 g, 88%).

reactant | octanedioic acid methyl ester 2-oxo-2-phenylethyl ester | 22.6 mmol, 6.93 g | O=C(COC(CCCCCCC(=O)OC)=O)C1=CC=CC=C1 | C17H22O5
reactant | acetamide | 114 mmol, 6.75 g | C(C)(=O)N | C2H5NO
reactant | boron trifluoride diethyl etherate | 23.7 mmol, 3.0 mL | B(F)(F)F.CCOCC
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
product | 7-(4-phenyloxazol-2-yl)heptanoic acid methyl ester | 5.7 g, 88% | COC(CCCCCCC=1OC=C(N1)C1=CC=CC=C1)=O | C17H21NO3
